US06855708B2
N-(Octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester (30 mg) was dissolved in 0.15 each of CH2Cl2 and THF. To this was added m-toluenesulfonyl chloride (0.051 mmol, 9.7 mg), followed by DIPEA (0.153 mmol, 20 mg) and 4-DMAP (0.01 mmol, 1.24 mg). This mixture was stirred at rt overnight when TLC (1:2 hexane:ethyl acetate) indicated the disappearance of all starting material. The volatiles were removed in vacuo and the residue was purified by flash column chromatography on silica gel eluted with a gradient of hexane and EtOAc to yield N-(N-(3-methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester (35 mg) as a sticky foam (homogeneous by TLC (1:2 hexane:ethyl acetate)).

reactant | N-(Octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester | 30 mg | C1(NCC2CCCCC12)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)OC | C25H28Cl2N4O4
reactant | m-toluenesulfonyl chloride | 0.051 mmol, 9.7 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | DIPEA | 0.153 mmol, 20 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
catalyst | 4-DMAP | 0.01 mmol, 1.24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(N-(3-methylbenzenesulfonyl)-octahydroisoindole-1-carbonyl)-4-(N-(3,5-dichloroisonicotinoyl)amino)-(L)-phenylalanine, methyl ester | 35 mg | CC=1C=C(C=CC1)S(=O)(=O)N1C(C2CCCCC2C1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)OC | C32H34Cl2N4O6S
